US04695575
A mixture of 1.8 parts of 2-chloropyrimidine, 6 parts of 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-N-methyl-1-piperidineethanamine, 1.7 parts of sodium hydrogen carbonate and 120 parts of ethanol was stirred and refluxed overnight. The reaction mixture was evaporated. Water was added. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was crystallized from a mixture of 2,2'-oxybispropane and 1,1'-oxybisethane (50:50 by volume). The product was filtered off and dried, yielding 5.5 parts (76.5%) of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-N-methyl-2-pyrimidinamine; mp. 135.4° C. (514).

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-N-methyl-1-piperidineethanamine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCNC | C23H29FN4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]ethyl]-N-methyl-2-pyrimidinamine | 76.5% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCN(C2=NC=CC=N2)C | C27H31FN6
